US06982278B2
2-{4-[2-(5-Methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}butyric acid
Under N2, a solution of 2-{4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}butyric acid ethyl ester (216 mg, 0.53 mmol) in ethanol (2.5 mL) and THF (2.5 mL) was treated with 2.0 N NaOH (2.0 mL). The reaction mixture was stirred at 55° C. for 1 h and concentrated in vacuo. The resulting slurry was suspended in ethyl acetate, acidified to pH 1 with 1N HCl, and partitioned. The organic layer was washed with brine, dried (Na2SO4), and concentrated in vacuo to give a white solid (155 mg, 77%): 1H NMR (400 MHz, CDCl3) δ 1.05 (t, 3H, J=7.57 Hz), 1.92-1.96 (m, 2H), 2.35 (s, 3H), 2.94 (t, 2H, J=6.35 Hz), 4.16 (t, 2H, J=6.60 Hz), 4.41 (t, 1H, J=6.11 Hz), 6.76-6.83 (m, 4H), 7.39-7.41 (m, 3H), 7.97-7.99 (m, 2H); MS (ES) m/e 382.0 (M+1).

reactant | 2-{4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}butyric acid ethyl ester | 0.53 mmol, 216 mg | C(C)OC(C(CC)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)=O | C24H27NO5
reactant | NaOH | 2.0 N, 2.0 mL | [OH-].[Na+]
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 2-{4-[2-(5-Methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}butyric acid | 155 mg, 77% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(OC(C(=O)O)CC)C=C1 | C22H23NO5
